* Qucs 0.0.21 
.INCLUDE "/usr/local/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
* Qucs 0.0.21  
V1 _net0 0 DC 0.6
VPr1 _net0 _net1 DC 0
D_1N4148_1 _net1 0 DMOD_D_1N4148_1 AREA=1.0 Temp=26.85
.MODEL DMOD_D_1N4148_1 D (Is=2.22e-10 N=1.65 Cj0=4e-12 M=0.333 Vj=0.7 Fc=0.5 Rs=0.0686 Tt=5.76e-09 Ikf=0 Kf=0 Af=1 Bv=75 Ibv=1e-06 Xti=3 Eg=1.11 Tcv=0 Trs=0 Ttt1=0 Ttt2=0 Tm1=0 Tm2=0 Tnom=26.85 )
.control
echo "" > spice4qucs.cir.noise
echo "" > spice4qucs.cir.pz
dc v1 0 1 0.0909091
write _dc.txt VPr1#branch 
destroy all
reset

exit
.endc
.END
